US04810713
4-[3-[4-[Bis(4-fluorophenyl)methylene]-1-piperidinyl]propoxy]benzoic acid ethyl ester hydrobromide [1:1]
A mixture of 6.09 g (0.021 mole) of 4-[bis(4-fluorophenyl)methylene]piperidine, 5.20 g (0.02 mole) of 1-[4-(3-chloropropoxy)-phenyl]carbethoxybenzene and sodium carbonate 4.30 g (0.04 mole) in 230 ml of 1-butanol containing potassium iodide (0.3 g) was heated overnight at gentle reflux. The reaction mixture was stripped to dryness and partitioned between chloroform water and chloroform-5% sodium hydroxide. Removal of chloroform gave an oil. The oil was converted to the hydrobromide salt using hydrogen bromide in glacial acetic acid. The acetic acid and excess hydrogen bromide were removed in vacuo. The salt was recrystallized from methanol-diethyl ether. The salt was washed with water to remove acetamide present as an impurity. The salt was washed with diethyl ether and dried in vacuo overnight at 80° C. A yield of 6.81 g (59.5%) of white solid, m.p. 192°-194° C., was obtained.

reactant | 4-[bis(4-fluorophenyl)methylene]piperidine | 0.021 mole, 6.09 g | FC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=C(C=C1)F | C18H17F2N
reactant | 1-[4-(3-chloropropoxy)-phenyl]carbethoxybenzene | 0.02 mole, 5.20 g | ClCCCOC1=CC=C(C=C1)C(OC(=O)C1=CC=CC=C1)C | C18H19ClO3
reactant | sodium carbonate | 0.04 mole, 4.30 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
reactant | hydrogen bromide | Br | BrH
solvent | 1-butanol | 230 ml | C(CCC)O | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[3-[4-[Bis(4-fluorophenyl)methylene]-1-piperidinyl]propoxy]benzoic acid ethyl ester hydrobromide | yield of 6.81 g, 59.5% | Br.C(C)OC(C1=CC=C(C=C1)OCCCN1CCC(CC1)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | InChI=1S/C30H31F2NO3.BrH/c1-2-35-30(34)25-8-14-28(15-9-25)36-21-3-18-33-19-16-24(17-20-33)29(22-4-10-26(31)11-5-22)23-6-12-27(32)13-7-23;/h4-15H,2-3,16-21H2,1H3;1H
